US08138175B2
D) (R)-2-Methyl-5-oxo-4-(3-piperidin-1-yl-propyl)-[1,4]diazepane-1-carboxylic acid benzyl ester
The title compound could be prepared from (R)-2-methyl-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester and 1-(3-chloropropyl)piperidine in analogy to example 33A. MS: 388.3 (MH+).

reactant | (R)-2-methyl-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CNC(CC1)=O)C | C14H18N2O3
reactant | 1-(3-chloropropyl)piperidine | ClCCCN1CCCCC1 | C8H16ClN
product | (R)-2-Methyl-5-oxo-4-(3-piperidin-1-yl-propyl)-[1,4]diazepane-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CN(C(CC1)=O)CCCN1CCCCC1)C | C22H33N3O3
